US08202899B2
Step E2: Preparation of 2-(1-acetyl-1H-indazol-5-yloxy)-5-fluorobenzonitrile:
In a 2 L flask, 2-(4-amino-3-methylphenoxy)-5-fluorobenzonitrile (277.1 ml, 221.7 mmol) was taken up in toluene (0.8 M) and treated with potassium acetate (26.11 g, 266.0 mmol) at ambient temperature. The reaction mixture was cooled to 0° C. and acetic anhydride (63.91 mL, 676.1 mmol) was added over 2 minutes. The ice bath was removed, the flask was fitted with a reflux condenser and the reaction was heated to 40° C. Isoamyl nitrite (59.29 mL, 443.3 mmol) was added dropwise. The reaction was heated to reflux for 15 hours, cooled to ambient temperature, and concentrated. The resulting solids were suspended in 2 L water, stirred vigorously for 15 minutes, filtered, and washed with water (1 L). The resulting solid (75 g, still wet) was used directly in the next step.

reactant | 2-(4-amino-3-methylphenoxy)-5-fluorobenzonitrile | 221.7 mmol, 277.1 ml | NC1=C(C=C(OC2=C(C#N)C=C(C=C2)F)C=C1)C | C14H11FN2O
reactant | potassium acetate | 266.0 mmol, 26.11 g | C(C)(=O)[O-].[K+]
reactant | acetic anhydride | 676.1 mmol, 63.91 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Isoamyl nitrite | 443.3 mmol, 59.29 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | toluene | 0.8 M | C1(=CC=CC=C1)C | C7H8
product | 2-(1-acetyl-1H-indazol-5-yloxy)-5-fluorobenzonitrile | C(C)(=O)N1N=CC2=CC(=CC=C12)OC1=C(C#N)C=C(C=C1)F | C16H10FN3O2
